US08431709B2
In an argon atmosphere, a mixture of methyl benzoate (3.0 mmol), 8-aminooctan-1-ol (3.6 mmol), Zn4(OCOCF3)6O (1.25 mol % in terms of mole number) and diisopropyl ether (5.0 ml) was heated to reflux for 20 hours, and as a result, 8-aminooctyl benzoate was obtained at a yield of 90%. The yield of 8-benzoylaminooctyl benzoate was 7%.

reactant | methyl benzoate | 3.0 mmol | C(C1=CC=CC=C1)(=O)OC | C8H8O2
reactant | 8-aminooctan-1-ol | 3.6 mmol | NCCCCCCCCO | C8H19NO
reactant | diisopropyl ether | 5.0 ml | C(C)(C)OC(C)C | C6H14O
product | 8-aminooctyl benzoate | yield of 90% | C(C1=CC=CC=C1)(=O)OCCCCCCCCN | C15H23NO2
